US05223526
Ethyl 3-(difluoromethyl)-1-(2-propenyl)-1H-pyrazole-4-carboxylate:
To a solution of potassium hydroxide (3.5 g) in ethanol (50 mL) at 0° C. was added dropwise the ethyl ester of 3-(difluoromethyl)-1H-pyrazole-4-carboxylic acid (10.1 g) in ethanol (50 mL), followed by dropwise addition of allyl bromide (4.6 mL). The mixture was stirred overnight, partitioned between ether and 2N HCl. The ether layer was dried (MgSO4) and concentrated in vacuo leaving an oil (11.4 g). The oil was distilled (Kugelrohr 80-85 ° C., 0.3 mm) to give the isomer of the desired product as an oil (2.6 g). Distillation was continued (100-105 ° C., 0.3 mm) to give the desired compound as a clear colorless oil (8.0 g).

reactant | potassium hydroxide | 3.5 g | [OH-].[K+]
reactant | 3-(difluoromethyl)-1H-pyrazole-4-carboxylic acid | 10.1 g | FC(C1=NNC=C1C(=O)O)F | C5H4F2N2O2
reactant | allyl bromide | 4.6 mL | C(C=C)Br | C3H5Br
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl 3-(difluoromethyl)-1-(2-propenyl)-1H-pyrazole-4-carboxylate | 11.4 g | FC(C1=NN(C=C1C(=O)OCC)CC=C)F | C10H12F2N2O2
